US04395406
1-(2-Dimethylaminoethyl)-5-chloropyrimid-2-one
2-Dimethylaminoethyl chloride (0.016 mol) was added to the potassium salt of 5-chloropyrimid-2-one (0.012 mol) in dimethylformamide (50 ml) and the reaction mixture stirred at 80° C. for 7 h. The solvent was then evaporated at reduced pressure (1 mm Hg) and the residue was extracted with chloroform (150 ml). The chloroform solution was washed with 1 N NaOH (2×4 ml), with water (5 ml) and dried (MgSO4) before evaporation. The product was recrystallized from benzene containing a little pet. ether; yield 47%, m.p. 157° C. (Found: C, 47.87; H, 6.05 Calc. for C8H12ClN3O: C, 47.64; H, 5.99).

reactant | 2-Dimethylaminoethyl chloride | 0.016 mol | CN(CCCl)C | C4H10ClN
reactant | potassium | [K] | K
reactant | 5-chloropyrimid-2-one | 0.012 mol | ClC=1C=NC(NC1)=O | C4H3ClN2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(2-Dimethylaminoethyl)-5-chloropyrimid-2-one | yield 47% | CN(CCN1C(N=CC(=C1)Cl)=O)C | C8H12ClN3O
